US07297715B2
To a solution of 6-Chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-ol (0.66 g, 2.95 mmol), methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate (1.0 g, 2.97 mmol) and triphenylphosphine (0.85 g, 3.24 mmol) in 25 mL THF is added diethyl azodicarboxylate (0.56 g, 3.21 mmol)(slight exotherm) and the reaction mixture is stirred at ambient temperature overnight (16 h). After concentrating under reduced pressure, the residue obtained is chromatographed over silica gel to provide methyl 2-(4-(3-((6-chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-yl)oxy)propoxy)phenoxy)-2-methylbutanoate (0.99 g).

reactant | 6-Chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-ol | 2.95 mmol, 0.66 g | ClC=1C=C2C(=CC(OC2=CC1O)(C)C)C(F)(F)F | C12H10ClF3O2
reactant | methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate | 2.97 mmol, 1.0 g | OCCCOC1=CC=C(OC(C(=O)OC)(CC)C)C=C1 | C15H22O5
reactant | triphenylphosphine | 3.24 mmol, 0.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.21 mmol, 0.56 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-(3-((6-chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-yl)oxy)propoxy)phenoxy)-2-methylbutanoate | 0.99 g | ClC=1C=C2C(=CC(OC2=CC1OCCCOC1=CC=C(OC(C(=O)OC)(CC)C)C=C1)(C)C)C(F)(F)F | C27H30ClF3O6
